US06191273B1
6-(1-Anthraquinonecarbonyl)-3,10-bis (2-nitrobenzenesulfonyl)-3,6,10,16-tetraazabicylo[10.3.1]hexadeca-1(16),12,14-triene
The title compound was prepared following the procedures illustrated above in Example 75 using 3,10-bis (2-nitrobenzenesulfonyl)-3,6,10,16-tetraazabicyclo-[10.3.1]hexadeca-1(16),12,14-triene (1.0 g, 1.7 mmol), anthraquinone-2-carboxylic acid (0.43 g, 1.7 mmol), DCC (0.35 g, 1.7 mmol), HOBT (0.23 g, 1.7 mmol) and 4-methylmorpholine (0.25 g, 2.5 mmol) in 10 mL of anhydrous THF and 20 mL of anhydrous DMF in 56 h. The compound was purified by flash chromatography on a silica gel column using 200:1 CH2Cl2—MeOH as an eluent to give 1.06 g (76%) of the title compound as a pale yellow foam.

reactant | 3,10-bis (2-nitrobenzenesulfonyl)-3,6,10,16-tetraazabicyclo-[10.3.1]hexadeca-1(16),12,14-triene | 1.7 mmol, 1.0 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N1CC=2C=CC=C(CN(CCCNCC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])N2 | C24H26N6O8S2
reactant | anthraquinone-2-carboxylic acid | 1.7 mmol, 0.43 g | C1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C(=O)O | C15H8O4
reactant | DCC | 1.7 mmol, 0.35 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 1.7 mmol, 0.23 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-methylmorpholine | 2.5 mmol, 0.25 g | CN1CCOCC1 | C5H11NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 6-(1-Anthraquinonecarbonyl)-3,10-bis (2-nitrobenzenesulfonyl)-3,6,10,16-tetraazabicylo[10.3.1]hexadeca-1(16),12,14-triene | 1.06 g, 76% | C1(=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C(=O)N1CCN(CC=2C=CC=C(CN(CCC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])N2)S(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-] | C39H32N6O11S2
